US07169761B2
Sodium acetate (50.5 g) was added to a solution of 3-bromo-4-hydroxyphenylacetic acid (28.5 g) in acetic anhydride (100 ml) and the mixture was refluxed with heating for 21 hours. After cooling to room temperature, 20% aqueous solution of sodium hydroxide was added to the reaction mixture to adjust to pH 11. The mixture was refluxed with heating for one hour. After cooling to room temperature, 10% aqueous solution of hydrochloric acid was added to the reaction mixture to adjust to pH 6. The mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous solution of sodium bicarbonate, and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain 1-(3-bromo-4-hydroxyphenyl) acetone (22.2 g).

reactant | Sodium acetate | 50.5 g | C(C)(=O)[O-].[Na+]
reactant | 3-bromo-4-hydroxyphenylacetic acid | 28.5 g | BrC=1C=C(C=CC1O)CC(=O)O | C8H7BrO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3-bromo-4-hydroxyphenyl) acetone | 22.2 g | BrC=1C=C(C=CC1O)CC(=O)C | C9H9BrO2
